US04906643
A mixture of 1.66 parts of 2-chloro-3-pyridinecarbonitrile, 4.28 parts of cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide, 1.3 parts of sodium carbonate and 22.5 parts of N.N-dimethylacetamide was stirred for 20 hours at 70° C. The reaction mixture was taken up in dichloromethane. The organic layer was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.19 parts (21.6%) of cis-4-amino-5-chloro-N-[1-[2-[(3-cyano-2-pyridinyl)amino]ethyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide; mp. 134.0° C. (compound 32).

reactant | 2-chloro-3-pyridinecarbonitrile | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN)OC)C=C1Cl)OC | C16H25ClN4O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N.N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis-4-amino-5-chloro-N-[1-[2-[(3-cyano-2-pyridinyl)amino]ethyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | 21.6% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC2=NC=CC=C2C#N)OC)C=C1Cl)OC | C22H27ClN6O3
